US07632851B2
(4Benzo[1,2,5]oxadiazol-5-yl-3-methoxy-phenyl)-(2-fluoro-ethyl)-amine
The starting compound is obtained according to the procedure described in Example 7 from 5-bromo-benzo[1,2,5]oxadiazole and (4-bromo-3-methoxy-phenyl)-(2-fluoro-ethyl)-carbamic acid tert-butyl ester, as a yellow glass. MS(ES+): 410 (M+23).

reactant | 5-bromo-benzo[1,2,5]oxadiazole | BrC=1C=CC=2C(=NON2)C1 | C6H3BrN2O
reactant | (4-bromo-3-methoxy-phenyl)-(2-fluoro-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCF)C1=CC(=C(C=C1)Br)OC)=O | C14H19BrFNO3
product | (4Benzo[1,2,5]oxadiazol-5-yl-3-methoxy-phenyl)-(2-fluoro-ethyl)-amine | N1=C2C(=NO1)C=C(C=C2)C2=C(C=C(C=C2)NCCF)OC | C15H14FN3O2
